US05286905
The reaction according to the method described in a known literature [J. Am. Chem. Soc., 73 2584 (1951)] was carried out by the use of the same starting materials as those used in Example 17. That is, 24.4 g (0.20 mol) of 3,5-dimethylphenol was dissolved in 100 ml of chloroform, and the resultant mixture was refluxed under atmospheric pressure. A solution prepared by dissolving 3.8 g (0.067 mol) of propyleneimine in 20 ml of chloroform was added dropwise over 30 minutes, and the refluxing was further continued for 3 hours. The reaction product was subjected to extraction with 50 ml of 5% hydrochloric acid three times, and then the water layer of the product was neutralized with sodium hydroxide. The water layer was subjected to extraction with 50 ml of ether three times. The ether layer was washed with water and dried. Then, ether was distilled off, and the residue was distilled under reduced pressure to give 3.9 g of 1-(3,5-dimethylphenoxy)- 2-propylamine. Its yield was as low as 33%.

reactant | 3,5-dimethylphenol | 0.20 mol, 24.4 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | propyleneimine | 0.067 mol, 3.8 g | CC1CN1 | C3H7N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,5-dimethylphenoxy)- 2-propylamine | 3.9 g, yield was as low as 33% | CC=1C=C(OCC(C)N)C=C(C1)C | C11H17NO
